US07893267B2
3.0 g (14.0 mmol) of 3-amino-5-fluoro-2-nitro-benzoic acid methyl ester in 1.6 g (15.4 mmol) of triethylamine and 2.1 g (15.4 mmol) of NaOBn/BnOH was heated at 60° C. for 0.5 h to produce 3-amino-5-benzyloxy-2-nitro-benzoic acid benzyl ester. LCMS: 380 (M+1)+.

reactant | 3-amino-5-fluoro-2-nitro-benzoic acid methyl ester | 14.0 mmol, 3.0 g | COC(C1=C(C(=CC(=C1)F)N)[N+](=O)[O-])=O | C8H7FN2O4
reactant | triethylamine | 15.4 mmol, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | NaOBn BnOH | 15.4 mmol, 2.1 g | O([Na])CC1=CC=CC=C1.C(C1=CC=CC=C1)O
product | 3-amino-5-benzyloxy-2-nitro-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C(=CC(=C1)OCC1=CC=CC=C1)N)[N+](=O)[O-])=O | C21H18N2O5
